US07994203B2
Step 2: 1-(Benzofuran-5-yl)propan-1-one
An ice-cooled mixture comprising N-methoxy-N-methylbenzofuran-5-carboxamide (1 g, 4.87 mmol) in dry ether (20 ml) under N2 is treated dropwise with ethylmagnesium bromide (2.437 ml, 7.31 mmol). After stirring for 30 mins the mixture is allowed to warm to RT. The reaction is quenched by careful addition of NH4Cl followed by 1M HCl and the contents are transferred to a separating funnel. The mixture is extracted with EtOAc and the organic portion is washed with 1M NaOH, brine, dried (MgSO4), evaporated down to give a light brown oil, which began to crystallise on standing. Purification by chromatography on silica eluting with 25% EtOAc/iso-Hex affords the title compound as a white crystalline solid. 1H NMR (400 MHz, CDCl3) δ 8.2 (d, 1H), 7.9 (d, 1H), 7.6 (d, 1H), 7.45 (d, 1H), 6.8 (d, 1H), 3.0 (q, 2H), 1.2 (t, 3H).

reactant | N-methoxy-N-methylbenzofuran-5-carboxamide | 4.87 mmol, 1 g | CON(C(=O)C=1C=CC2=C(C=CO2)C1)C | C11H11NO3
reactant | ethylmagnesium bromide | 7.31 mmol, 2.437 ml | C(C)[Mg]Br
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1-(Benzofuran-5-yl)propan-1-one | O1C=CC2=C1C=CC(=C2)C(CC)=O | C11H10O2
